US05447925
To a suspension of allyl 3,4-diallyloxy-6-aminobenzoate * (16 mmol) in ethanol (50 ml) was added a solution of potassium hyroxide (48 mmol) in water (2ml). The mixture was heated at reflux for 40 minutes. The solution was partially evaporated at reduced pressure, acidified with acetic acid and extracted with ethylaceate. The organic layer was washed with water, a saturated solution of sodium chloride, dried (MgSO4) and decolourised with charcoal. Evaporation of the solvent gave 3,4-diallyloxy-6-aminobenzoic acid as a sandy solid. NMR (DMSO-d6): 4.5(m,4H); 5.33 ,4H); 6.60(s,1H); 7.3(s,1H): M/S +ve FAB (M+H)hu +=250.

reactant | allyl 3,4-diallyloxy-6-aminobenzoate | C(C=C)OC=1C=C(C(=O)OCC=C)C(=CC1OCC=C)N | C16H19NO4
reactant | potassium hyroxide | 48 mmol | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 2ml | O | H2O
product | 3,4-diallyloxy-6-aminobenzoic acid | C(C=C)OC=1C=C(C(=O)O)C(=CC1OCC=C)N | C13H15NO4
